US05538986
Dissolved diisopropylamine (11.07 g, 0.109 mol) in 150 mL of dry THF and cooled to 0° C. under a nitrogen atmosphere. Added 40.1 mL (0.100 mol) of 2.5M n-butyl lithium in hexane dropwise via addition funnel. Stirred at 0° C. for 10 mins then cooled to -78° C. Added 10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-nitrile (20.00 g, 0.0912 mol) dissolved in 100 mL of dry THF dropwise via addition funnel. Stirred at -78° C. for 45 mins. Added allyl bromide (14.34 g, 0.119 mol) via syringe, and allowed reaction mixture to warm slowly to room temperature. Stirred at room temperature for 90 mins. Added 250 mL of 0.5N HCl, and separated layers. Extracted aqueous solution with ethyl acetate. Washed combined organic extracts with saturated NaCl, dried with MgSO4, filtered, and evaporated. Purified crude product by flash chromatography on silica gel eluting with 5% ethyl acetate-hexane then 10% ethyl acetate-hexane. Combined appropriate fractions and evaporated to give 23.65 g (100% yield) of 10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-nitrile.

reactant | diisopropylamine | 0.109 mol, 11.07 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 0.100 mol, 2.5M, 40.1 mL | C(CCC)[Li]
reactant | 10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-nitrile | 0.0912 mol, 20.00 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)C#N | C16H13N
reactant | allyl bromide | 0.119 mol, 14.34 g | C(C=C)Br | C3H5Br
reactant | HCl | 0.5N, 250 mL | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 10,11-dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-nitrile | 23.65 g, 100% yield | C(C=C)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)C#N | C19H17N
